US08008322B2
A mixture of 1.2 g of 2-hydroxy-4-methoxynicotinonitrile and 30 mL of hydrazine hydrate is maintained at 140° C. for 18 hours in a bomb. The reaction medium is then evaporated to dryness. The residue is taken up in ethyl ether, and the resulting suspension is filtered. 1.1 g of 3-amino-1H-pyrazolo[4,3-c]pyrid-4-ol are obtained in the form of a grey solid.

reactant | 2-hydroxy-4-methoxynicotinonitrile | 1.2 g | OC1=C(C#N)C(=CC=N1)OC | C7H6N2O2
reactant | hydrazine hydrate | 30 mL | O.NN
product | 3-amino-1H-pyrazolo[4,3-c]pyrid-4-ol | 1.1 g | NC1=NNC2=C1C(=NC=C2)O | C6H6N4O
